US08110687B2
To a solution of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (1.0 g, 5.2 mmol) in MeOH (50 mL) was added thionyl chloride (0.56 mL, 7.8 mmol) slowly. The reaction was heated at reflux for 18 h and then cooled to rt. The solvent was evaporated. The residue was redissolved in DCM and saturated NaHCO3 solution was added. The mixture was extracted with DCM (2×) and the combined organic solutions were dried over Na2SO4 and concentrated to give methyl 6-hydroxyisoquinoline-3-carboxylate as a white solid (0.72 g, 67%). LCMS: (FA) ES+ 208.2.

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 5.2 mmol, 1.0 g | OC=1C=C2CC(NCC2=CC1)C(=O)O | C10H11NO3
reactant | thionyl chloride | 7.8 mmol, 0.56 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 50 mL | CO | CH4O
product | methyl 6-hydroxyisoquinoline-3-carboxylate | 0.72 g, 67% | OC=1C=C2C=C(N=CC2=CC1)C(=O)OC | C11H9NO3
